US06248753B1
(1-Ethylpropyl)-[3,5,6-trimethyl-1-(2,4,6trimethylphenyl)-1H-pyrazolo[3,4-b]pyridin-4-yl]-amine
A mixture of 4-chloro-3,5,6-trimethyl-1-(2,4,6-trimethylphenyl)-1H-pyrazolo[3,4-b]pyridin (227 mg, 0.72 mmol), p-TsOH (124 mg) and ethylpropylamine (0.5 ml) in 1 ml of dimethylsulfoxide (DMSO) was heated at reflux for 4 hours (thin layer chromatography showed no reaction). Copper bromide (40 mg) was added and the reaction was heated for an additional 15 hours at reflux. The reaction mixture was quenched with saturated ammonium chloride and extracted with ethyl acetate (EtOAc). The organic layer was washed with brine, dried and concentrated to give a brown oil. The oil residue was purified through silica gel column chromatography using chloroform (CHCl3) and hexane in a ratio of 8:3 as eluent to give the title compound as a colorless oil. 1H NMR (CDCl3) 6.92 (s, 2H), 3.97 (d, 1H, NH), 3.56 (brs, 1H, OH), 2.70 (s, 3H), 2.43 (s, 3H), 2.29 (s, 3H), 2.18 (s, 3H), 1.89 (s, 6H), 1.4˜1.7 (m, 4H), 0.94 (t, 6H) ppm. The compound was prepared as the corresponding HCl salt as an off-white crystals after recrystallization from a solvent mixture of ethyl ether and ethyl acetate, mp 201-205° C.

reactant | 4-chloro-3,5,6-trimethyl-1-(2,4,6-trimethylphenyl)-1H-pyrazolo[3,4-b]pyridin | 0.72 mmol, 227 mg | ClC1=C2C(=NC(=C1C)C)N(N=C2C)C2=C(C=C(C=C2C)C)C | C18H20ClN3
reactant | p-TsOH | 124 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | ethylpropylamine | 0.5 ml | C(C)NCCC | C5H13N
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
catalyst | Copper bromide | 40 mg | [Cu](Br)Br
product | (1-Ethylpropyl)-[3,5,6-trimethyl-1-(2,4,6trimethylphenyl)-1H-pyrazolo[3,4-b]pyridin-4-yl]-amine | C(C)C(CC)NC1=C2C(=NC(=C1C)C)N(N=C2C)C2=C(C=C(C=C2C)C)C | C23H32N4
